US07579473B2
To a par hydrogenation reaction vessel was added 4-(2-fluoro-4-nitro-phenoxy)-6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinoline (0.800 g, 1.6 mmol, 1.0 eq.), DMF (50 ml), EtoAc (50 ml), MeOH (50 ml), TEA (5 ml) and 10% Pd/C (200 mg). The vessel was placed on the par hydrogenator at 35 psi overnight. The Pd was filtered and the solvent removed to give 3-fluoro-4-[6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinolin-4-yloxy]-phenylamine as an off yellow solid (0.78 g, 99% yield). 1H NMR (400 MHz, CDCl3): 8.45 (d, 1H), 7.57 (s, 1H), 7.36 (s, 1H), 7.05 (t, 1H), 6.54 (m, 2H), 6.39 (d, 1H), 4.16 (d, 2H), 4.01 (s, 3H), 3.81 (m, 3H), 2.61 (m, 3H), 2.41 (m, 1H), 2.29 (s, 3H), 2.23 (m, 2H), 1.32 (m, 2H); MS (EI) for C25H28FN3O3: 438 (M+H+).

reactant | 4-(2-fluoro-4-nitro-phenoxy)-6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinoline | 1.6 mmol, 0.800 g, 1.0 eq. | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OCC2CC3C(CN(C3)C)C2)C=CC(=C1)[N+](=O)[O-] | C25H26FN3O5
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | MeOH | 50 ml | CO | CH4O
product | 3-fluoro-4-[6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinolin-4-yloxy]-phenylamine | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CC2C(CN(C2)C)C1)N | C25H28FN3O3
